US08420812B2
3-(4-Trifluoromethyl-phenylethynyl)-pyridine
This product was prepared from toluene-4-sulfonic acid pyridin-3-yl ester and 1-ethynyl-4-trifluoromethyl-benzene following the general procedure for the Sonogashira cross-coupling reaction described above. Chromatography eluent: heptane/EtOAc 8:2; yield (87 mg, 70%); 1H NMR δ (CDCl3): 8.75-8.73 (m, 1H), 8.49-8.52 (m, 1H), 7.76-7.73 (m, 1H), 7.49-8.46 (m, 2H), 7.23-7.19 (m, 1H), 6.87-6.84 (m, 2H); LCMS m/z: 247.

reactant | toluene-4-sulfonic acid pyridin-3-yl ester | N1=CC(=CC=C1)OS(=O)(=O)C1=CC=C(C=C1)C | C12H11NO3S
reactant | 1-ethynyl-4-trifluoromethyl-benzene | C(#C)C1=CC=C(C=C1)C(F)(F)F | C9H5F3
solvent | heptane EtOAc | CCCCCCC.CCOC(=O)C
product | 3-(4-Trifluoromethyl-phenylethynyl)-pyridine | FC(C1=CC=C(C=C1)C#CC=1C=NC=CC1)(F)F | C14H8F3N
